US04335142
PREPARATION OF p-BROMOPHENYL 1-(m-NITROPHENYLSULFONYL)VINYL SULFIDE
2-Chloro-1-(m-nitrophenylsulfonyl)ethyl p-bromophenyl sulfide (27.1 g, 62.1 mmoles) was dissolved in 125 ml of tetrahydrofuran. The solution was diluted with 125 ml of diethyl ether and treated with 8.65 ml (6.3 g, 62.3 mmoles) of triethylamine. After one hour the mixture was filtered to remove 7.52 g (88%) of triethylamine hydrochloride, m.p. 255°-258°. Removal of solvent from the filtrate gave a yellow oil which crystallized upon scraping. Recrystallization from 25 ml of ethyl acetate and 10 ml of pentane gave 12 g (48%) of product m.p. 109°-111°.

reactant | 2-Chloro-1-(m-nitrophenylsulfonyl)ethyl p-bromophenyl sulfide | 62.1 mmoles, 27.1 g | BrC1=CC=C(C=C1)SC(CCl)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H11BrClNO4S2
reactant | triethylamine | 62.3 mmoles, 8.65 ml, 6.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
product | p-BROMOPHENYL 1-(m-NITROPHENYLSULFONYL)VINYL SULFIDE | 12 g, 48% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)C(=C)SC1=CC=C(C=C1)Br | C14H10BrNO4S2
